US04427687
2.27 g (0.02 mol) of cysteamine hydrochloride are suspended in 40 ml of absolute tetrahydrofuran and treated with 5.55 ml (0.04 mol) of triethylamine to free the base. The mixture is stirred for 15 minutes at room temperature and then cooled down to about -30° C. At this temperature a solution of 2.42 g (0.02 mol) of pyruvyl chloride 1-oxime in 10 ml of absolute tetrahydrofuran is added dropwise. The reaction mixture is allowed to warm to room temperature while being well stirred. After two hours ice-water and then dilute hydrochloric acid are added until a pH of 5-6 has been attained. The reaction mixture is extracted twice with ethyl acetate and the organic phase is washed with sodium chloride solution, dried over anhydrous sodium sulfate and finally evaporated. The resulting crystalline residue is treated with active charcoal. After recrystallization from hot ethyl acetate and n-hexane there is obtained pure 2-oxo-5,6-dihydro-3-methyl-2H-1,4-thiazine oxime, m.p. 197° C. (with decomposition).

reactant | cysteamine hydrochloride | 0.02 mol, 2.27 g | Cl.NCCS
reactant | triethylamine | 0.04 mol, 5.55 ml | C(C)N(CC)CC | C6H15N
reactant | pyruvyl chloride 1-oxime | 0.02 mol, 2.42 g | C(C(=O)C)(Cl)=NO | C3H4ClNO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-oxo-5,6-dihydro-3-methyl-2H-1,4-thiazine oxime | N(O)=C1SCCN=C1C | C5H8N2OS
